US04460580
A solution of 12.7 g of N-[3-(4-carbamoyl-3-hydroxy-phenoxy)propyl]-benzylamine and 7.6 g of phenylethylene oxide in 80 ml of isopropanol is refluxed for 16 hours. The reaction mixture is evaporated, the residue is partitioned between 100 ml of 6N hydrochloric acid and 100 ml of ether and the aqueous phase is separated off and rendered alkaline with 2N ammonia solution. The N-[3-(4-carbamoyl-3-hydroxy-phenoxy)-propyl]-N-(2-hydroxy-2-phenyl-ethyl]-benzylamine thus obtained is isolated by extraction with ethyl acetate an debenzylated in the form of the crude product.

reactant | N-[3-(4-carbamoyl-3-hydroxy-phenoxy)propyl]-benzylamine | 12.7 g | C(N)(=O)C1=C(C=C(OCCCNCC2=CC=CC=C2)C=C1)O | C17H20N2O3
reactant | phenylethylene oxide | 7.6 g | C1(=CC=CC=C1)C1CO1 | C8H8O
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | N-[3-(4-carbamoyl-3-hydroxy-phenoxy)-propyl]-N-(2-hydroxy-2-phenyl-ethyl]-benzylamine | C(N)(=O)C1=C(C=C(OCCCN(CC(C2=CC=CC=C2)O)CC2=CC=CC=C2)C=C1)O | C25H28N2O4
